US06288261B1
N-Boc-4-bromobenzenesulfonamide
A suspension of 4-bromophenylsulfonamide (3.5 g, 14.8 mmol) and di-tert-butyl dicarbonate (3.76 g, 17.0 mmol) in CH2Cl2 (100 mL) under nitrogen was treated with triethylamine (2.3 mL, 16.3 mmol) and DMAP (183 mg, 1.48 mmol) and stirred at room temperature for 12 hours. The reaction mixture was washed with IM HCl (2x25 mL), H2O (25 mL), and brine, dried (Na2SO4), filtered, and concentrated. Purification on silica gel with a gradient of 2% to 5% MeOH in CH2Cl2 afforded 4.46 g (90%) of the desired compound as white solid.

reactant | 4-bromophenylsulfonamide | 14.8 mmol, 3.5 g | BrC1=CC=C(C=C1)S(=O)(=O)N | C6H6BrNO2S
reactant | di-tert-butyl dicarbonate | 17.0 mmol, 3.76 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 16.3 mmol, 2.3 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.48 mmol, 183 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-Boc-4-bromobenzenesulfonamide | 4.46 g, 90% | C(=O)(OC(C)(C)C)NS(=O)(=O)C1=CC=C(C=C1)Br | C11H14BrNO4S
